US07902187B2
2-(6-chloro-1H-benzo[d]imidazol-1-yl)-8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purine.
To a vial containing crude 5-chloro-N1-(8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-yl)benzene-1,2-diamine (0.035 mmol) was added anhydrous methanol (2.5 mL), followed by anhydrous trimethylorthoformate (0.5 mL) and methane sulfonic acid (catalytic amount) and the reaction mixture was stirred under Ar at room temperature for 4 h (HPLC monitoring). Preparative HPLC purification, after evaporation of solvent and drying, provided the desired product (3.5 mg, 22% yield on two steps), as a yellow oil. TFA salt. 1H NMR (300 MHz, CD3OD+CDCl3) δ, ppm: 9.32 (s, 1H), 8.91 (br m, 4H), 8.79 (s, 1H), 7.78 (d, J=8.6 Hz, 1H), 7.43 (d, J=8.6 Hz, 1H), 4.76-4.72 (m, 1H), 4.32-4.29 (m, 2H), 3.72 (app t, J=11.7 Hz, 2H), 3.08-3.05 (m, 2H), 2.87 (s, 3H), 2.02 (br d, J=10.9 Hz, 2H); MS (EI) m/z 446.3 (MH)+.

reactant | 5-chloro-N1-(8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purin-2-yl)benzene-1,2-diamine | 0.035 mmol | ClC1=CC=C(C(=C1)NC1=NC(=C2N=C(N(C2=N1)C1CCOCC1)C)C1=CC=NC=C1)N | C22H22ClN7O
reactant | trimethylorthoformate | 0.5 mL | COC(OC)OC | C4H10O3
reactant | methane sulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | methanol | 2.5 mL | CO | CH4O
product | 2-(6-chloro-1H-benzo[d]imidazol-1-yl)-8-methyl-6-(pyridin-4-yl)-9-(tetrahydro-2H-pyran-4-yl)-9H-purine | 3.5 mg, 22% yield | ClC=1C=CC2=C(N(C=N2)C2=NC(=C3N=C(N(C3=N2)C2CCOCC2)C)C2=CC=NC=C2)C1 | C23H20ClN7O
